US06340697B1
(E)-(5-mthyl-1, 2, 3-thiadiazol-4-yl) phenylmethanone oxime (0.30 g, 1.4 mmol) was dissolved in acetone (20 ml), potassium carbonate (0.32 g, 2.0 mmol) and hydrochloride of 2-picolylchloride (0.34 g, 2.0 mmol) were added and heated for 3 days with refluxing. After concentrating the thus reacted solution, the residue was extracted with ethylacetate, and after washing with water, the residue was dried with magnesium sulfate. The solvent was removed by distillation, the residue was refined in a column chromatography, and yielded (E)-(5-mthyl-1, 2, 3-thiadiazol-4-yl)phenyl-methanone O-(2-pyridyl) methyloxime.

reactant | phenylmethanone oxime | 1.4 mmol, 0.30 g | C1(=CC=CC=C1)C=NO | C7H7NO
reactant | potassium carbonate | 2.0 mmol, 0.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloride | Cl | ClH
reactant | 2-picolylchloride | 2.0 mmol, 0.34 g | N1=C(C=CC=C1)CCl | C6H6ClN
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | phenyl-methanone O-(2-pyridyl) methyloxime | N1=C(C=CC=C1)CON=CC1=CC=CC=C1 | C13H12N2O
